US04202832
10 G. of 4-{[[3-(p-chlorophenyl)propyl]thiocarbamoyl]-thio}-butyric acid ethyl ester dissolved in 100 ml. of acetic acid were stirred under slight reflux for 8 hours with 50 ml. of half-concentrated hydrochloric acid. The mixture was evaporated in vacuo, the residue recrystallized from carbon tetrachloride, and 4.4 g. of 4-{[[(p-chlorophenyl)propyl]-thiocarbamoyl]thio}-butyric acid having a melting point of 98°-100° C. were obtained.

reactant | 4-{[[3-(p-chlorophenyl)propyl]thiocarbamoyl]-thio}-butyric acid ethyl ester | C(C)OC(CCCSC(NCCCC1=CC=C(C=C1)Cl)=S)=O | C16H22ClNO2S2
reactant | hydrochloric acid | Cl | ClH
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 4-{[[(p-chlorophenyl)propyl]-thiocarbamoyl]thio}-butyric acid | ClC1=CC=C(C=C1)CCCNC(=S)SCCCC(=O)O | C14H18ClNO2S2
